US05061717
N-Methyl-N-(2-phenylethyl)-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide
By the method of Example 1, N-methyl-N-(2-phenylethyl)-4-(bromomethyl)benzenesulfonamide (10.6 mmol, 3.9 g) and thiazolidine-2,4-dione (11.7 mmol 1.4 g,), using 1:2 ethyl acetate:hexane as eluant, were converted to 3.3 g purified title product as a gum.

reactant | N-methyl-N-(2-phenylethyl)-4-(bromomethyl)benzenesulfonamide | 10.6 mmol, 3.9 g | CN(S(=O)(=O)C1=CC=C(C=C1)CBr)CCC1=CC=CC=C1 | C16H18BrNO2S
reactant | thiazolidine-2,4-dione | 11.7 mmol, 1.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-Methyl-N-(2-phenylethyl)-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O)CCC1=CC=CC=C1 | C19H20N2O4S2
